US04835175
Under the conditions of Example 14(C), a solution of 5.8 g of 7-benzyloxyindole-2-carboxylic acid n-butyl ester in 200 ml of methanol is hydrogenated and worked up, thus obtaining 3.2 g of 7-hydroxyindole-2-carboxylic acid n-butyl ester, mp 150°-151° C.

reactant | 7-benzyloxyindole-2-carboxylic acid n-butyl ester | 5.8 g | C(CCC)OC(=O)C=1NC2=C(C=CC=C2C1)OCC1=CC=CC=C1 | C20H21NO3
solvent | methanol | 200 ml | CO | CH4O
product | 7-hydroxyindole-2-carboxylic acid n-butyl ester | 3.2 g | C(CCC)OC(=O)C=1NC2=C(C=CC=C2C1)O | C13H15NO3
